US07939533B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-methanesulfonyl-imidazolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 0.20 g (0.36 mmol) N-[6-(2-amino-ethylamino)-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide in 2 ml 1,2-dichloroethane were added 42 mg (0.48 mmol) paraformaldehyde and 0.13 g (1.1 mmol) magnesium sulfate. After stirring at room temperature for 18 h 0.14 g (1.1 mmol) N,N-diisopropylethylamine, 2 mg (0.02 mmol) 4-(N,N-dimethylamino)pyridine and 62 mg (0.54 mmol) methanesulfonyl chloride were added. The reaction mixture was heated to 80° C. and kept at this temperature for 4 h. After cooling to room temperature the reaction mixture was diluted with 20 ml tert-butyl methyl ether and washed with two 20-ml portions of a saturated aqueous solution of sodium carbonate. The combined organic layers were dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography to give 93 mg (40%) of the title compound as a white foam.

reactant | N-[6-(2-amino-ethylamino)-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 0.36 mmol, 0.20 g | NCCNC1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)C1=C(C=C(C=C1)F)C | C27H27F7N4O
reactant | paraformaldehyde | 0.48 mmol, 42 mg | C=O | CH2O
reactant | magnesium sulfate | 1.1 mmol, 0.13 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | N,N-diisopropylethylamine | 1.1 mmol, 0.14 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 0.54 mmol, 62 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 0.02 mmol, 2 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | tert-butyl methyl ether | 20 ml | COC(C)(C)C | C5H12O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-methanesulfonyl-imidazolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 93 mg, 40% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1CN(CC1)S(=O)(=O)C)(C)C)(F)F | C29H29F7N4O3S
